US07247730B2
contacting a solution of 1-(phenylglyoxylyl)piperidine arenesulfonylhydrazone in a water immiscible organic solvent with an inorganic base, in the presence of phase transfer catalyst to obtain 7-phenyl-1-azabicyclo[4.2.0]octan-8-one;

reactant | 1-(phenylglyoxylyl)piperidine | C1(=CC=CC=C1)C(C(=O)N1CCCCC1)=O | C13H15NO2
solvent | water | O | H2O
product | 7-phenyl-1-azabicyclo[4.2.0]octan-8-one | C1(=CC=CC=C1)C1C2CCCCN2C1=O | C13H15NO
